US07485644B2
To a stirred suspension of 1-(methylsulfonyl)-4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazine (13.3 g, 39.2 mmol) in THF (200 mL) at −70° C. was added LHMDS (75 mL, 75 mmol) drop wise and the reaction stirred for 20 minutes. A solution of ethyl 3-pyrimidin-2-ylpropanoate (9.2 g, 51 mmol) in THF (55 mL) was then added at −70° C., warmed to −20° C. and stirred for 2 hours. The reaction was then quenched by addition of a saturated solution of NH4Cl (250 mL), extracted twice with EtOAc (3×250 mL), combined organics were washed with brine (250 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow solid. The solid was stirred for 20 minutes in 20% isoHexane/ether (100 mL), filtered and washed with isoHexane and dried to give 4-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butan-2-one as an off white solid (15.2 g, 32.2 mmol, 82%).

reactant | 1-(methylsulfonyl)-4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazine | 39.2 mmol, 13.3 g | CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)OCC(F)(F)F | C12H16F3N3O3S
reactant | LHMDS | 75 mmol, 75 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 3-pyrimidin-2-ylpropanoate | 51 mmol, 9.2 g | N1=C(N=CC=C1)CCC(=O)OCC | C9H12N2O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | isoHexane ether | 100 mL | CCCC(C)C.CCOCC
product | 4-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butan-2-one | N1=C(N=CC=C1)CCC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)OCC(F)(F)F)=O | C19H22F3N5O4S
